US07449473B2
3-propyl-6-methyl-1,3-dihydropyrimidine-2,4-dione (3 g), as prepared in Example 3, was added to a solution of concentrated H2SO4 (12 ml) and HNO3 (9.6 ml) at 0° C. The reaction mixture was allowed to come to room temperature and continued stirring for another 2 h. The reaction mixture was then poured into water and extracted with ethyl acetate (3×50 mL). The organic layer was washed with water, brine and dried over Na2SO4. Removal of the solvent and recrystallization of the residue with ethylacetate/hexane mixture furnished the 6-methyl-5-nitro-3-propyl-1,3-dihydropyrimidine-2,4-dione(1.56 g).

reactant | 3-propyl-6-methyl-1,3-dihydropyrimidine-2,4-dione | 3 g | C(CC)N1C(NC(=CC1=O)C)=O | C8H12N2O2
reactant | H2SO4 | 12 ml | OS(=O)(=O)O | H2O4S
reactant | HNO3 | 9.6 ml | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 6-methyl-5-nitro-3-propyl-1,3-dihydropyrimidine-2,4-dione | 1.56 g | CC1=C(C(N(C(N1)=O)CCC)=O)[N+](=O)[O-] | C8H11N3O4
